US08859566B2
A mixture of 1-benzyl-1H-pyrazole-4-carboxylicacid(6-amino-2,4-dioxo-3-propyl-1,2,3,4-tetrahydro-pyrimidin-5-yl)-amide (0.5 g, 13.5 mmol), POCl3 (10 ml) and DMF (0.1 ml) were heated at 125-130° C. for 20 hours. Reaction mixture was cooled to 20-25° C. It was then concentrated under vacuum. The residue was triturated with diethyl ether, dried. The crude product was purified by column chromatography using silica gel (100-200 mesh) and 2 to 4% methanol in DCM as an eluent to obtain 8-(1-Benzyl-1H-pyrazol-4-yl)-2-chloro-1-propyl-1,7-dihydro-purin-6-one (0.04 g, 8%) as a pale brown solid.

reactant | 1-benzyl-1H-pyrazole-4-carboxylicacid(6-amino-2,4-dioxo-3-propyl-1,2,3,4-tetrahydro-pyrimidin-5-yl)-amide | 13.5 mmol, 0.5 g | NC1=C(C(N(C(N1)=O)CCC)=O)NC(=O)C=1C=NN(C1)CC1=CC=CC=C1 | C18H20N6O3
reactant | POCl3 | 10 ml | O=P(Cl)(Cl)Cl | Cl3OP
solvent | DMF | 0.1 ml | CN(C)C=O | C3H7NO
product | 8-(1-Benzyl-1H-pyrazol-4-yl)-2-chloro-1-propyl-1,7-dihydro-purin-6-one | 0.04 g, 8% | C(C1=CC=CC=C1)N1N=CC(=C1)C1=NC=2N=C(N(C(C2N1)=O)CCC)Cl | C18H17ClN6O
